US04882447
To a solution of diethyl 2-aminomalonate hydrochloride (4.2 g) and glycolic acid (1.6 g) in dimethylformamide is added triethylamine (2.12 g), and to the mixture are added 1-hydroxybenzotriazole (2.7 g) and N,N'-dicyclohexylcarbodiimide (4.33 g) with stirring under ice cooling. The mixture is reacted at 0° to 5° C. for 2 hours and further reacted at room temperature for 15 hours. The reaction mixture is concentrated under reduced pressure, and to the residue is added ethyl acetate, and the undissolved substance is filtered off. The filtrate is washed with aqueous sodium carbonate solution, dried and then the solvent is distilled off. The residue is purified by silica gel column chromatography [solvent: chloroform-ethyl acetate (2:1)] to give diethyl 2-[(hydroxyacetyl)amino]malonate (2.9 g), m.p. 74°-74.5° C.

reactant | diethyl 2-aminomalonate hydrochloride | 4.2 g | Cl.NC(C(=O)OCC)C(=O)OCC
reactant | glycolic acid | 1.6 g | C(CO)(=O)O | C2H4O3
reactant | 1-hydroxybenzotriazole | 2.7 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N'-dicyclohexylcarbodiimide | 4.33 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | triethylamine | 2.12 g | C(C)N(CC)CC | C6H15N
product | diethyl 2-[(hydroxyacetyl)amino]malonate | 2.9 g | OCC(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO6
